US03944608
A 500 ml. 3-necked flask fitted with a stirrer and dry ice-acetone trap is charged with 82.1 g. (2.0 mole) acetonitrile, 27.4 g. (1.52 mole) water, 27 g. (0.25 mole) Na2CO3 and 28.1 g. (0.50 mole) 1-butene and cooled to 0° C. Chlorine (0.50 mole) is added over 1/2 hour, the reaction temperature reaching a high of 32° C. After stirring for 2 hours at 25° C., the reaction mixture is filtered. The acetonitrile washings of the solid phase and filtrate is combined and the solvents removed by vacuum distillation to leave 33.0 g. of the N-[1-(chloromethyl)propyl]acetamide (44.0 percent yield based on 1-butene).

reactant | acetonitrile | 2.0 mole | C(C)#N | C2H3N
reactant | water | 1.52 mole | O | H2O
reactant | Na2CO3 | 0.25 mole | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-butene | 0.50 mole | C=CCC | C4H8
reactant | Chlorine | 0.50 mole | ClCl | Cl2
product | N-[1-(chloromethyl)propyl]acetamide | 44.0 percent yield | ClCC(CC)NC(C)=O | C6H12ClNO
